US07375226B2
(b) 2-(4-Fluoro-phenyl)-4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridine
Prepared in analogy to example E (b) from 1-[2-(4-fluoro-phenyl)-6,7-dihydro-4H-thiazolo[5,4]pyridin-5-yl]-ethanone and hydrochloric acid. Chromatography (SiO2; dichloromethane/methanol 95:5) yields the title compound as a yellowish solid. MS (m/e): 235.1 (M+H+).

reactant | 1-[2-(4-fluoro-phenyl)-6,7-dihydro-4H-thiazolo[5,4]pyridin-5-yl]-ethanone | FC1=CC=C(C=C1)C=1SC=2CCC(NC2N1)C(C)=O | C14H13FN2OS
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane methanol | ClCCl.CO
product | 2-(4-Fluoro-phenyl)-4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridine | FC1=CC=C(C=C1)C=1SC=2CNCCC2N1 | C12H11FN2S
